US06784192B2
1-[(2-Oxo-1,2-dihydro-3-pyridinyl)methyl]-2-[3-(2-pyridyl)propyl]piperidine
In DMF was dissolved 2.1 g of triphenyl(2-pyridylmethyl)phosphonium dihydrochloride, followed by adding 1.4 g of potassium tert-butoxide thereto at room temperature under stirring. After 15 minutes, a solution of 1.25 g of 2-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]acetaldehyde dissolved in DMF was added dropwise into the above-mentioned solution at room temperature under stirring, and the mixture was left overnight. Water was added thereto, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1, subsequently ethyl acetate, and subsequently ethyl acetate:methanol=4:1). 760 mg of the resulting brown oil, 0.56 ml of thionyl chloride and 10 ml of ethanol were stirred under reflux for 30 minutes. The reaction solution was cooled to room temperature, a 2N aqueous sodium hydroxide was added thereto, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1, subsequently ethyl acetate, and subsequently ethyl acetate:methanol=4:1). The resulting yellow oil (350 mg) was dissolved in 10 ml of ethanol, 100 mg of 10% palladium-carbon (water-containing product) was added thereto, and the mixture was catalytically hydrogenated at normal pressure under stirring for 1.5 hours. The catalyst was filtered off and the solvent was evaporated. The residue was purified by NH-silica gel chromatography (ethyl acetate, subsequently ethyl acetate:methanol=4:1), to give 310 mg of an oil.

reactant | triphenyl(2-pyridylmethyl)phosphonium dihydrochloride | 2.1 g | Cl.Cl.C1(=CC=CC=C1)[P+](CC1=NC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.4 g | CC(C)([O-])C.[K+]
reactant | 2-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]acetaldehyde | 1.25 g | COC1=NC=CC=C1CN1C(CCCC1)CC=O | C14H20N2O2
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[(2-Oxo-1,2-dihydro-3-pyridinyl)methyl]-2-[3-(2-pyridyl)propyl]piperidine | 310 mg | O=C1NC=CC=C1CN1C(CCCC1)CCCC1=NC=CC=C1 | C19H25N3O
